US09340549B2
A catalytic amount of concentrated sulfuric acid (0.1 mL) was added to a 50 mL round bottom flask containing a solution of (S)-2-amino-2-phenylacetic acid (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (1.0 g, 6.6 mmol) in MeOH (10 mL). The resulting mixture was heated at 65° C. for 6 hours. The solvent was removed under reduced pressure, and the mixture was quenched with aqueous NaHCO3 and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated to afford (S)-methyl 2-amino-2-phenylacetate (0.8 g, 74.0%) as a white solid. 1H NMR (300 MHz, CDCl3) δ: 7.37-7.32 (m, 5H), 4.62 (s, 1H), 3.70 (s, 3H).

reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | (S)-2-amino-2-phenylacetic acid | N[C@H](C(=O)O)C1=CC=CC=C1 | C8H9NO2
reactant | MeOH | 10 mL | CO | CH4O
product | (S)-methyl 2-amino-2-phenylacetate | 0.8 g, 74.0% | N[C@H](C(=O)OC)C1=CC=CC=C1 | C9H11NO2
